### PR TITLE
feat: `Decidable` instance for `Nat.isPowerOfTwo`

### PR DESCRIPTION
**Pull request by georgerennie**
This PR provides a `Decidable` instance for `Nat.isPowerOfTwo` based on the formula `(n ≠ 0) ∧ (n &&& (n - 1)) = 0`.

To do this it includes theorems about `Nat.testBit` to show that the `n.log2`th bit is set in `n` and `n - 1` for non powers of two.

Bitwise lemmas are needed to reason about the `&&&` so the file `Init.Data.Nat.Power2` is renamed to `Init.Data.Nat.Power2.Basic` and `Init.Data.Nat.Power2.Lemmas` introduced that depends on `Init.Data.Nat.Bitwise.Lemmas` to prevent circular includes.

### CODE REVIEW

**Comment by georgerennie** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c358b0c7341de7cdd732b8f09ab552f7405facfb --onto 8207919728b9299f43b75e1efd52a6900580819b`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-05 17:03:11)

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 1]
```diff
@@ -223,6 +223,16 @@ theorem testBit_lt_two_pow {x i : Nat} (lt : x < 2^i) : x.testBit i = false := b
     exfalso
     exact Nat.not_le_of_gt lt (ge_two_pow_of_testBit p)
 
+theorem testBit_of_two_pow_le_and_two_pow_add_one_gt {n i : Nat}
+    (hle : 2^i ≤ n) (hgt : n < 2^(i + 1)) : n.testBit i := by
```
Comment (kim-em) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean]:
```suggestion
    (hle : 2^i ≤ n) (hgt : n < 2^(i + 1)) : n.testBit i = true := by
```

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 2]
```diff
@@ -231,6 +241,10 @@ theorem lt_pow_two_of_testBit (x : Nat) (p : ∀i, i ≥ n → testBit x i = fal
   have test_false := p _ i_ge_n
   simp [test_true] at test_false
 
+theorem testBit_log2 {n : Nat} (h : n ≠ 0) : n.testBit n.log2 := by
```
Comment (kim-em) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean]:
```suggestion
theorem testBit_log2 {n : Nat} (h : n ≠ 0) : n.testBit n.log2 = true := by
```
